US07300907B2
2-Chloro-6-methanesulfonylpyrimidine-4-carboxylic acid methyl ester (3.7 g, 14.75 mmol) was dissolved in dioxane and 7N ammonia in methanol was added. The reaction mixture was stirred at room temperature for 3 hours, concentrated under vacuum, and the residue partitioned between ethyl acetate and water. The organic phase was dried and concentrated. The product was purified by column chromatography to provide 6-amino-2-chloropyrimidine-4-carboxylic acid methyl ester (2.35 g, 85% yield): 1H NMR (DMSO-d6): δ 7.6 (br s, 1H), 7.00 (s, 1H), 3.84 (s, 3H), 3.33 (s, 3H).

reactant | 2-Chloro-6-methanesulfonylpyrimidine-4-carboxylic acid methyl ester | 14.75 mmol, 3.7 g | COC(=O)C1=NC(=NC(=C1)S(=O)(=O)C)Cl | C7H7ClN2O4S
reactant | ammonia | 7N | N | H3N
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | methanol | CO | CH4O
product | 6-amino-2-chloropyrimidine-4-carboxylic acid methyl ester | 2.35 g, 85% yield | COC(=O)C1=NC(=NC(=C1)N)Cl | C6H6ClN3O2
